US04465844
In 20 ml of water was dissolved 3.2 g of L-alanyl-2-(2,5-dioxopyrrolidin-3-yl)glycine hydrobromide and the solution was adjusted to pH 6 with a saturated aqueous solution of sodium hydrogen carbonate and cooled to 0°-5° C. To this solution was added 1.5 g of sodium borohydride all at once. The mixture was stirred at the same temperature for one hour, while kept maintaining at pH 8.9-9.2 with 2 N hydrochloric acid. The reaction mixture was adjusted to pH 4.0 with 2 N hydrochloric acid, diluted with 200 ml of water and absorbed on a column (150 ml) of Amberlite IRA-68 (OH- -form). After the column was washed with water, elution was carried out with 0.2 N acetic acid. The eluate was concentrated to dryness under reduced pressure and the resultant powder was subjected to column chromatography on activated carbon and eluted with water. The eluate was concentrated under reduced pressure and lyophilized to give L-alanyl-2-(5-hydroxy-2-oxopyrrolidin-3-yl)glycine as a white powder.

reactant | L-alanyl-2-(2,5-dioxopyrrolidin-3-yl)glycine hydrobromide | 3.2 g | Br.N[C@@H](C)C(=O)NC(C(=O)O)C1C(NC(C1)=O)=O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium borohydride | 1.5 g | [BH4-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | L-alanyl-2-(5-hydroxy-2-oxopyrrolidin-3-yl)glycine | N[C@@H](C)C(=O)NC(C(=O)O)C1C(NC(C1)O)=O | C9H15N3O5
